US07696231B2
a) Preparation of methyl 4-{[4-(hexyloxy)benzoyl]amino}benzoate (Compound C of Scheme 2)
To a solution of methyl 4-aminobenzoate (500 mg, 3.31 mmol) in anhydrous pyridine (10 mL) was added dropwise 4-(hexyloxy)benzoyl chloride (890 μL) at 0° C. After 5 min the temperature was allowed to warm up to rt. After 90 min aminomethyl resin (Polymers Laboratories PL-AMS, 1.93 mmol/g, 720 mg) was added and the resulting mixture was stirred overnight at rt. After filtration and rinsing the resin, water (125 mL) was added to the filtrate and a white solid precipated out. Filtration and washing with water gave a solid which was dried under vacuo at 60° C. overnight. The title compound (1073 mg) was obtained as a white solid (91%) in 99.7% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-aminobenzoate | 3.31 mmol, 500 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 4-(hexyloxy)benzoyl chloride | 890 μL | C(CCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C13H17ClO2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-{[4-(hexyloxy)benzoyl]amino}benzoate | 1073 mg | C(CCCCC)OC1=CC=C(C(=O)NC2=CC=C(C(=O)OC)C=C2)C=C1 | C21H25NO4
